US09301990B2
Step 2: 4-((S)-2-((S)-3-(4-(3-((3S,8S,9S,10R,13R,14S,17R)-10,13-dimethyl-17-((R)-6-methylheptan-2-yl)-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)propylamino)-4-oxobutanamido)-4-(4-fluorophenyl)butanamido)-6-((4-methoxyphenyl)diphenylmethylamino)hexanamido)-benzyl 4-nitrophenyl carbonate
In a 10 mL round-bottomed flask, the above prepared N1-(3-((3S,8S,9S,10R,13R,14S,17R)-10,13-dimethyl-17-((R)-6-methylheptan-2-yl)-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)propyl)-N4-((S)-1-(4-fluorophenyl)-4-((S)-1-(4-(hydroxymethyl)phenylamino)-6-((4-methoxyphenyl)diphenylmethylamino)-1-oxohexan-2-ylamino)-4-oxobutan-2-yl)succinamide (196 mg, 160 μmol, Eq: 1.00) and Huenig's base (61.9 mg, 81.4 μl, 479 μmol, Eq: 3.00) were combined with CH2Cl2 (1.6 ml) and DMF (0.8 ml) to give a yellow suspension; bis(4-nitrophenyl) carbonate (72.8 mg, 239 μmol, Eq: 1.50) was added and the reaction allowed to proceed at ambient temperature over night. The mixture was poured onto crashed ice/NH4Cl (pH ˜6), extracted 2× with AcOEt, washed with H2O and brine, dried over Na2SO4, and evaporated to dryness. After trituration with AcOEt/heptane one obtained 123 mg of the title compound as light yellow solid. MS: expected mass: 1392.7825, found mass: 1392.7819.

reactant | N1-(3-((3S,8S,9S,10R,13R,14S,17R)-10,13-dimethyl-17-((R)-6-methylheptan-2-yl)-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)propyl)-N4-((S)-1-(4-fluorophenyl)-4-((S)-1-(4-(hydroxymethyl)phenylamino)-6-((4-methoxyphenyl)diphenylmethylamino)-1-oxohexan-2-ylamino)-4-oxobutan-2-yl)succinamide | 160 μmol, 196 mg | C[C@]12[C@H]3CC[C@@]4([C@H](CC[C@H]4[C@@H]3CC=C2C[C@H](CC1)OCCCNC(CCC(=O)N[C@@H](CC1=CC=C(C=C1)F)CC(=O)N[C@H](C(=O)NC1=CC=C(C=C1)CO)CCCCN(C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O)[C@H](C)CCCC(C)C)C | C77H102FN5O7
reactant | Huenig's base | 479 μmol, 81.4 μl, 61.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | 1.6 ml | C(Cl)Cl | CH2Cl2
reactant | bis(4-nitrophenyl) carbonate | 239 μmol, 72.8 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8N2O7
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 4-((S)-2-((S)-3-(4-(3-((3S,8S,9S,10R,13R,14S,17R)-10,13-dimethyl-17-((R)-6-methylheptan-2-yl)-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)propylamino)-4-oxobutanamido)-4-(4-fluorophenyl)butanamido)-6-((4-methoxyphenyl)diphenylmethylamino)hexanamido)-benzyl 4-nitrophenyl carbonate | 123 mg | C(OCC1=CC=C(C=C1)NC([C@H](CCCCN(C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC)NC(C[C@H](CC1=CC=C(C=C1)F)NC(CCC(=O)NCCCO[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@H]4[C@@H]3CC=C2C1)[C@H](C)CCCC(C)C)C)C)=O)=O)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C84H105FN6O11
